US07572820B2
1-{[5-(2,5-Difluorophenyl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 35C from [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and 2,5-difluorobenzohydrazide: MS (ES) m/z 405 (M+1).

reactant | [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=CN(C2=CC1)CC(=O)O)C(F)(F)F | C12H7F3N2O2
reactant | 2,5-difluorobenzohydrazide | FC1=C(C(=O)NN)C=C(C=C1)F | C7H6F2N2O
product | 1-{[5-(2,5-Difluorophenyl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC1=C(C=C(C=C1)F)C1=NN=C(O1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C19H9F5N4O
